US04656167
1.40 g (5.0 mM) of (-)-(4aR,10aR)-3,4,4a,5,10,10a-hexahydro-6-methoxy-4-methyl-9-methylthio-2H-naphth[2,3-b]-1,4-oxazine are dissolved in 50 ml of acetone and cooled to 0°. 2.75 ml (5.5 mM) of 2N ethereal hydrochloric acid are subsequently added whilst stirring. The precipitated salt is filtered off and washed with ether. (-)-(4aR,10aR)-3,4,4a,5,10,10a-hexahydro-6-methoxy-4-methyl-9-methylthio-2H-naphth[2,3-b]-1,4-oxazine hydrochloride is obtained (m.p. 237°-239°). Recrystallisation from acetone/ether, with the rotation value [α]D20 =-117.4° [c=0.52; methylene chloride/methanol (1:1)].

reactant | (-)-(4aR,10aR)-3,4,4a,5,10,10a-hexahydro-6-methoxy-4-methyl-9-methylthio-2H-naphth[2,3-b]-1,4-oxazine | 5.0 mM, 1.40 g | COC1=C2C[C@@H]3[C@H](OCCN3C)CC2=C(C=C1)SC | C15H21NO2S
reactant | hydrochloric acid | 5.5 mM, 2.75 ml | Cl | ClH
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | (-)-(4aR,10aR)-3,4,4a,5,10,10a-hexahydro-6-methoxy-4-methyl-9-methylthio-2H-naphth[2,3-b]-1,4-oxazine hydrochloride | Cl.COC1=C2C[C@@H]3[C@H](OCCN3C)CC2=C(C=C1)SC | InChI=1S/C15H21NO2S.ClH/c1-16-6-7-18-14-9-11-10(8-12(14)16)13(17-2)4-5-15(11)19-3;/h4-5,12,14H,6-9H2,1-3H3;1H/t12-,14-;/m1./s1
